US06509359B1
A mixture of methyl 4-aminobenzoate (3.1 g, 20.5 mmol) and diethyl bromomalonate (2.45 g, 10.2 mmol) in a round bottom flask was placed in an oven at 115° C. for 16 h. The reaction mixture, which had turned into a solid cake, was suspended in 20 mL of benzene and filtered. The filtrate was diluted with 50 mL of benzene and the organic layer was washed with 2 N hydrochloric acid (3×10 mL), water (10 mL), dried (Na2SO4) and evaporated to give an oily material which solidified upon standing. The crude was recrystallized from ether/hexane to give 2.7 g (85%) of diethyl (4-methoxycarbonylphenyl)aminomalonate, mp 66-69° C. (ether/hexane).

reactant | methyl 4-aminobenzoate | 20.5 mmol, 3.1 g | NC1=CC=C(C(=O)OC)C=C1 | C8H9NO2
reactant | diethyl bromomalonate | 10.2 mmol, 2.45 g | BrC(C(=O)OCC)C(=O)OCC | C7H11BrO4
solvent | benzene | 20 mL | C1=CC=CC=C1 | C6H6
product | diethyl (4-methoxycarbonylphenyl)aminomalonate | 2.7 g, 85% | COC(=O)C1=CC=C(C=C1)NC(C(=O)OCC)C(=O)OCC | C15H19NO6
